US09024019B2
Step C: 4-amino-6-(5,5-dimethyl-4H-isoxazol-3-yl)-2,5-dihydro-1,2,4-triazin-3-one
To a solution of tert-butyl 4-(tert-butoxycarbonylamino)-6-(5,5-dimethyl-4H-isoxazol-3-yl)-3-oxo-5H-1,2,4-triazine-2-carboxylate (2.50 g, 5.51 mmol) in EtOH (30 mL) at 0° C. was slowly added acetyl chloride (2.16 mL, 27.6 mmol). After completion of the addition, the reaction mixture was allowed to warm to room temperature and stirring was continued for an additional 20 h. The reaction mixture was cooled to 0° C. and carefully treated with NaOMe in MeOH until pH 7 was reached. The volatiles were removed in vacuo and the residual was repeatedly diluted with acetonitrile and evaporated. The remaining solids were stirred for 10 min with hot acetonitrile and filtered. Concentration of the filtrate furnished the desired product as an off-white solid. LCMS (Method K) RT 0.47 min. [M+H]+ 212.

reactant | tert-butyl 4-(tert-butoxycarbonylamino)-6-(5,5-dimethyl-4H-isoxazol-3-yl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | 5.51 mmol, 2.50 g | C(C)(C)(C)OC(=O)NN1C(N(N=C(C1)C1=NOC(C1)(C)C)C(=O)OC(C)(C)C)=O | C18H29N5O6
reactant | acetyl chloride | 27.6 mmol, 2.16 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaOMe | C[O-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | MeOH | CO | CH4O
product | 4-amino-6-(5,5-dimethyl-4H-isoxazol-3-yl)-2,5-dihydro-1,2,4-triazin-3-one | NN1C(NN=C(C1)C1=NOC(C1)(C)C)=O | C8H13N5O2
